US09260425B2
A solution of 0.940 mL of 1.6 M of n-Butyllithium in hexane was added dropwise to a solution of 0.102 mL, (1.95 mmol) of acetonitrile in tetrahydrofuran at −78° C. The mixture was stirred for 30 min and a solution of 272 mg (0.500 mmol) of 4-{6-[5-bromo-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester was added. The brown mixture was stirred for 30 min at −50° C. and 2 ml of saturated aqueous NH4Cl was added. The mixture was allowed to warm to room temperature and extracted with ethyl acetate. The organic extracts were washed with water, brine, dried over MgSO4 and concentrated. The residue was purified via silica gel chromatography using a gradient of ethyl acetate in heptane to afford 44 mg (17%) of tert-Butyl 4-(6-(5-(cyanomethyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperazine-1-carboxylate. ESI MS m/z 504.2 (M+1).

reactant | n-Butyllithium | 1.6 M, 0.940 mL | C(CCC)[Li]
reactant | acetonitrile | 1.95 mmol | C(C)#N | C2H3N
reactant | 4-{6-[5-bromo-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester | 0.500 mmol, 272 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CC=C1)C1=NN(C2=CN=C(C=C21)Br)C2OCCCC2 | C25H31BrN6O3
reactant | NH4Cl | 2 ml | [NH4+].[Cl-]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-Butyl 4-(6-(5-(cyanomethyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperazine-1-carboxylate | 44 mg, 17% | C(#N)CC=1C=C2C(=CN1)N(N=C2C2=CC=CC(=N2)N2CCN(CC2)C(=O)OC(C)(C)C)C2OCCCC2 | C27H33N7O3
